US09428528B2
Step 2 Preparation of (6-{4-[(4S,5R)-3-(2,2-Difluoro-acetyl)-4-fluoromethyl-2,2-dimethyl-oxazolidin-5-yl]-phenyl}-pyridazin-3-ylmethyl)-carbamic acid tert-butyl ester
To a stirred solution of 2,2-difluoro-1-{(4S,5R)-4-fluoromethyl-2,2-dimethyl-5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-oxazolidin-3-yl}-ethanone (0.849 g, 2.058 mmol) and (6-Chloro-pyridazin-3-ylmethyl)-carbamic acid tert-butyl ester (0.5 g, 2.058 mmol) in toluene:ethanol:water (20:10:5 mL) is added Na2CO3 (0.436 g, 4.115 mmol) at room temperature. Resulting reaction mixture is degassed with nitrogen for 20 minutes followed by addition of Pd (PPh3)4 (0.237 g, 0.206 mmol). The resulting reaction mixture is heated to 80° C. for 16 h. Solvent is evaporated in vacuo and the crude material is diluted using water and extracted with ethyl acetate. Organic layer is dried over sodium sulphate, concentrated and purified by using Combi-flash eluting with 20% MeOH in DCM to afford the title compound (0.250 g): 1H NMR (400 MHz, DMSO-d6) 1.40 (s, 9H), 1.53 (s, 3H), 1.61 (s, 3H), 3.94 (s, 1H), 4.47 (d, J=6.08 Hz, 2H), 4.58-4.59 (m, 0.5H), 4.70-4.71 (m, 1H), 4.83-4.84 (m, 0.5H), 4.94-4.97 (m, 1H), 5.30 (d, J=3.32 Hz, 1H), 6.65 (t, J=52.32 Hz, 1H), 7.61-7.67 (m, 4H), 8.18 (d, J=8.12 Hz, 2H), 8.24 (d, J=8.84 Hz, 1H). LC-MS (m/z): [M+H]=495.2.

reactant | 2,2-difluoro-1-{(4S,5R)-4-fluoromethyl-2,2-dimethyl-5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-oxazolidin-3-yl}-ethanone | 2.058 mmol, 0.849 g | FC(C(=O)N1C(O[C@@H]([C@H]1CF)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)(C)C)F | C20H27BF3NO4
reactant | (6-Chloro-pyridazin-3-ylmethyl)-carbamic acid tert-butyl ester | 2.058 mmol, 0.5 g | C(C)(C)(C)OC(NCC=1N=NC(=CC1)Cl)=O | C10H14ClN3O2
reactant | Na2CO3 | 4.115 mmol, 0.436 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene ethanol water | 5 mL | C1(=CC=CC=C1)C.C(C)O.O
catalyst | Pd (PPh3)4 | 0.206 mmol, 0.237 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (6-{4-[(4S,5R)-3-(2,2-Difluoro-acetyl)-4-fluoromethyl-2,2-dimethyl-oxazolidin-5-yl]-phenyl}-pyridazin-3-ylmethyl)-carbamic acid tert-butyl ester | 0.250 g | C(C)(C)(C)OC(NCC=1N=NC(=CC1)C1=CC=C(C=C1)[C@@H]1[C@H](N(C(O1)(C)C)C(C(F)F)=O)CF)=O | C24H29F3N4O4
